US08252797B2
A mixture of 3-(3-{4-[2,6-dioxo-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]-pyrazol-1-yl}-prop-1-ynyl)-benzoic acid (100 mg, 0.17 mmol), ammonium carbonate (33 mg, 0.34 mmol), HOBT (36 mg, 0.24 mmol), N-methyl morpholine (34 mg, 0.34 mmol) were taken in DMF (2 ml), EDCI (130 mg, 0.68 mmol) was added at cold condition and stirred for 18 hrs at room temperature. The reaction mixture was diluted with water (10 ml) and extracted with DCM (3×5 ml), the organic layer was washed with brine (2×10 ml), dried over Na2SO4. The organic solvent was evaporated and the crude product was purified using HPLC to obtain 3-(3-{4-[2,6-Dioxo-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]-pyrazol-1-yl}-prop-1-ynyl)-benzamide (33 mg, 18%).

reactant | 3-(3-{4-[2,6-dioxo-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]-pyrazol-1-yl}-prop-1-ynyl)-benzoic acid | 0.17 mmol, 100 mg | O=C1N(C(C=2N(C(=NC2N1CCC)C=1C=NN(C1)CC#CC=1C=C(C(=O)O)C=CC1)COCC[Si](C)(C)C)=O)CCC | C30H38N6O5Si
reactant | ammonium carbonate | 0.34 mmol, 33 mg | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | HOBT | 0.24 mmol, 36 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methyl morpholine | 0.34 mmol, 34 mg | CN1CCOCC1 | C5H11NO
reactant | EDCI | 0.68 mmol, 130 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | 10 ml | O | H2O
product | 3-(3-{4-[2,6-Dioxo-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]-pyrazol-1-yl}-prop-1-ynyl)-benzamide | 33 mg, 18% | O=C1N(C(C=2N(C(=NC2N1CCC)C=1C=NN(C1)CC#CC=1C=C(C(=O)N)C=CC1)COCC[Si](C)(C)C)=O)CCC | C30H39N7O4Si
